US05705499
b) 5,11-Dihydro-11-ethyl-5-methyl-8-(pyrid-3-yl)ethynyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
A mixture containing 5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.19 g, 0.68 mmol), 3-bromopyridine (0.07 mL, 0.73 mmol), tetrakis(triphenylphosphine)palladium(0), triethylamine (2 mL), and 1 crystal of BHT was heated at 85° C. in a sealed tube for 7 hours. Solvent was removed, and the residue was purified by flash chromatography, eluting with ethyl acetate/hexanes, and recrystallization from ethanol/hexanes to give 0.16 g of the title compound as yellow crystals, m.p. 178°-180° C.

reactant | 5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.68 mmol, 0.19 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)C#C)=O)C)C=CC=N2 | C16H14N4O
reactant | 3-bromopyridine | 0.73 mmol, 0.07 mL | BrC=1C=NC=CC1 | C5H4BrN
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 5,11-Dihydro-11-ethyl-5-methyl-8-(pyrid-3-yl)ethynyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.16 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)C#CC=3C=NC=CC3)=O)C)C=CC=N2 | C21H17N5O
